15
R0102 1 2 5000
R0300 3 0 25000
R0405 4 5 1
R0400 4 0 10
R0304 3 4 100000
R0607 6 7 100000
R0804 8 4 1
R0607 6 7 25000
C0209 2 9 150E-12 IC=0.6
C1003 10 3 50E-12 IC=0.6
C0710 7 10 50E-12 IC=0.6
C1112 11 12 50E-12 IC=0.6
C0512 5 12 50E-12 IC=0.6
C1311 13 11 50E-12 IC=0.6
C0813 8 13 50E-12 IC=0.6
C0114 1 14 100E-12 IC=0.6
C0115 1 15 50E-12 IC=0.6
Q1002 10 2 9 NPN
Q0202 2 2 9 NPN
Q1202 12 2 9 NPN
Q1403 14 3 10 NPN
Q1507 15 7 10 NPN
Q0113 1 13 8 NPN
Q0912 9 12 5 PNP
Q1414 14 14 1 PNP
Q1514 15 14 1 PNP
Q1315 13 15 1 PNP
D1112 11 12 
D1311 13 11 
VEE 0 9 DC 5
V0600 6 0 SIN(0 1 1000 0 100 0 10)
VCC 1 0 DC 5
.TRAN 20E-3 20E-6 BE 10
