8
* Buffer. Saida=3
R0102 1 2 5000
R0300 3 0 1000
C0405 4 5 10E-12 IC=0.6
C0106 1 6 10E-12 IC=0.6
C0107 1 7 10E-12 IC=0.6
Q0402 4 2 5 NPN
Q0202 2 2 5 NPN
Q0302 3 2 5 NPN
Q0603 6 3 4 NPN
Q0708 7 8 4 NPN
Q0606 6 6 1 PNP
Q0706 7 6 1 PNP
Q0307 3 7 1 PNP
VEE 0 5 DC 5
V0800 8 0 SIN(0 5 1000 0 500 0 10)
VCC 1 0 DC 5
.TRAN 20E-3 20E-6 BE 10
