10
* Conversor D/A de 3 bits
R0100 1 0 300
R0200 2 0 4400
C0304 3 4 100E-12
C0305 3 5 100E-12
C0306 3 6 100E-12
Q0007 0 7 4 PNP 0.995 0.5 4E-14 25E-3 4E-14 25E-3
Q0108 1 8 4 PNP 0.995 0.5 4E-14 25E-3 4E-14 25E-3
Q0009 0 9 5 PNP 0.995 0.5 4E-14 25E-3 4E-14 25E-3
Q0108 1 8 5 PNP 0.995 0.5 4E-14 25E-3 4E-14 25E-3
Q0010 0 10 6 PNP 0.995 0.5 4E-14 25E-3 4E-14 25E-3
Q0108 1 8 6 PNP 0.995 0.5 4E-14 25E-3 4E-14 25E-3
Q0202 2 2 3 PNP 0.995 0.5 4E-14 25E-3 4E-14 25E-3
Q0402 4 2 3 PNP 0.995 0.5 4E-14 25E-3 4E-14 25E-3
Q0502 5 2 3 PNP 0.995 0.5 8E-14 25E-3 8E-14 25E-3
Q0602 6 2 3 PNP 0.995 0.5 16E-14 25E-3 16E-14 25E-3
V1 7 0 PULSE(5 0 0 1E-4 1E-4 1E-3 2E-3 4)
VB 8 0 DC 2.5
V2 9 0 PULSE(5 0 0 1E-4 1E-4 2E-3 4E-3 2)
V3 10 0 PULSE(5 0 0 1E-4 1E-4 4E-3 8E-3 1)
V0300 3 0 DC 5
.TRAN 10E-3 10E-6 BE 1
