13
* Conversor D/A de 4 bits
* Convergencia dificil. Aumentar Cx ajuda.
R0100 1 0 200
R0200 2 0 200
R0300 3 0 4400
CX 2 1 2E-7
C0004 0 4 100E-12
C0005 0 5 100E-12
C0006 0 6 100E-12
C0007 0 7 100E-12
Q0108 1 8 4 PNP 0.995 0.5 4E-14 25E-3 4E-14 25E-3
Q0209 2 9 4 PNP 0.995 0.5 4E-14 25E-3 4E-14 25E-3
Q0110 1 10 5 PNP 0.995 0.5 4E-14 25E-3 4E-14 25E-3
Q0209 2 9 5 PNP 0.995 0.5 4E-14 25E-3 4E-14 25E-3
Q0111 1 11 6 PNP 0.995 0.5 4E-14 25E-3 4E-14 25E-3
Q0209 2 9 6 PNP 0.995 0.5 4E-14 25E-3 4E-14 25E-3
Q0112 1 12 7 PNP 0.995 0.5 4E-14 25E-3 4E-14 25E-3
Q0209 2 9 7 PNP 0.995 0.5 4E-14 25E-3 4E-14 25E-3
Q0303 3 3 13 PNP 0.995 0.5 4E-14 25E-3 4E-14 25E-3
Q0403 4 3 13 PNP 0.995 0.5 4E-14 25E-3 4E-14 25E-3
Q0503 5 3 13 PNP 0.995 0.5 8E-14 25E-3 8E-14 25E-3
Q0603 6 3 13 PNP 0.995 0.5 16E-14 25E-3 16E-14 25E-3
Q0703 7 3 13 PNP 0.995 0.5 32E-14 25E-3 32E-14 25E-3
V1 8 0 PULSE(5 1 0 1E-4 1E-4 1E-3 2E-3 8)
VB 9 0 DC 2.5
V2 10 0 PULSE(5 1 0 1E-4 1E-4 2E-3 4E-3 4)
V3 11 0 PULSE(5 1 0 1E-4 1E-4 4E-3 8E-3 2)
V3 12 0 PULSE(5 1 0 1E-4 1E-4 8E-3 16E-3 1)
V1300 13 0 DC 5
.TRAN 20E-3 20E-6 GEAR 1
