8
* Bobina de Tesla de dupla ressonancia
* Excitacao em onda quadrada e senoide
R0000 0 0 1.55099650613243E-4 2.94427E+5
L2 1 0 1.55099650613243E-4
L1 1 2 -9.63996506132429E-5
L3 3 1 2.80449003493868E-2
L0400 4 0 1.55099650613243E-4
L0405 4 5 -9.63996506132429E-5
L0604 6 4 2.80449003493868E-2
C2 3 0 10.4E-12
C1 2 7 5.07E-9
C0600 6 0 10.4E-12
C0508 5 8 5.07E-9
VX 8 0 SIN 0 2.29189877447079E+2 2.94427E+5 0 0 0 8.25
VIN 7 0 PULSE -180 180 0 0 0 1.69821381870549E-6 3.39642763741097E-6 8.25
.TRAN 50E-6 100E-9 BE 100
