10
* Bobina de Tesla de dupla ressonancia
* Excitacao com transistores
R0000 0 0 1.2055E-1 5.87E-5 2.82E-2
R0000 0 0 1.55099650613243E-4
R0102 1 2 10
R0304 3 4 10
L2 5 0 1.55099650613243E-4
L1 5 6 -9.63996506132429E-5
L3 7 5 2.80449003493868E-2
C2 7 0 10.4E-12
C1 6 8 5.07E-9
Q0801 8 1 9 NPN
Q1003 10 3 8 NPN
D0908 9 8 
D0810 8 10 
VEE 0 9 DC 180
V0209 2 9 SIN(0 -10 294427 0 0 0 8.25)
VCC 10 0 DC 180
V0408 4 8 SIN(0 10 294427 0 0 0 8.25)
.TRAN 50E-6 50E-9 TRAP 3
