11
* Bobina de Tesla de dupla ressonancia
* Excitacao com transistores
R0000 0 0 1.2055E-1 5.87E-5 2.82E-2
R0000 0 0 2.64224277024264
R0102 1 2 10
R0304 3 4 10
L0500 5 0 5.87E-5
L3 6 7 2.77901890695E-2
C2 6 0 10.4E-12
C1 5 8 5.07E-9
Q0801 8 1 9 NPN
Q1003 10 3 8 NPN
E1100 11 0 5 0 2.64224277024264
F0500 5 0 11 7 2.64224277024264
D0908 9 8 
D0810 8 10 
VEE 0 9 DC 180
V0209 2 9 SIN(0 -10 294427 0 0 0 8.25)
VCC 10 0 DC 180
V0408 4 8 SIN(0 10 294427 0 0 0 8.25)
.TRAN 50E-6 50E-9 GEAR 1
