5
* Flyback
R0102 1 2 1000
L0304 3 4 100E-3
C0400 4 0 10E-9
C0500 5 0 1E-6
Q0401 4 1 0 NPN
D0405 4 5 
VIN 2 0 PULSE(0 5 1E-3 1E-6 1E-6 1E-3 2E-3 8)
VCC 3 0 DC 10
.TRAN 20E-3 20E-6 GEAR 10
