5
* Oscilador senoidal com amp. op. ideal
R0100 1 0 1000
R0201 2 1 2200
R0300 3 0 1000
R0403 4 3 1000
C0400 4 0 1E-7
C0203 2 3 1E-7
G0200 2 0 5 0 -1
G0005 0 5 1 4 1
D0201 2 1 
I0003 0 3 PULSE(0 1E-3 1E-3 1e-6 1e-6 0.1E-3 1 1)
.TRAN 5E-3 5E-6 GEAR 1
